US07718693B2
1-Ethyl-3-(phenylmethyl)-5-{[(triphenylmethyl)oxy]methyl}-2-pyrrolidinone (0.561 g, 1.1 mmol) was stirred for 24 hrs at room temperature in a mixture of acetonitrile (21 ml) and formic acid (3 ml). The reaction was not complete at this stage so the solvent was evaporated and replaced with formic acid (10 ml) and stirring was continued for 3 hrs. Reaction was still not complete so the mixture was concentrated in vacuo (azeotroping with methanol to remove all of the formic acid) and then dissolved in methanol (20 ml). Amberlyst 15® was then added to the mixture and stirring was continued at room temperature overnight. The resin was filtered off, washing with more methanol, and the filtrate was concentrated to a gum (0.625 g). The gum was purified by automated flash silica-gel column chromatography (Biotage SP4), eluting with a 0-100% gradient of ethyl acetate in hexane, to give 1-ethyl-5-(hydroxymethyl)-3-(phenylmethyl)-2-pyrrolidinone (0.170 g) which was used in the next step.

reactant | 1-Ethyl-3-(phenylmethyl)-5-{[(triphenylmethyl)oxy]methyl}-2-pyrrolidinone | 1.1 mmol, 0.561 g | C(C)N1C(C(CC1COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC1=CC=CC=C1)=O | C33H33NO2
solvent | acetonitrile | 21 ml | C(C)#N | C2H3N
solvent | formic acid | 3 ml | C(=O)O | CH2O2
product | 1-ethyl-5-(hydroxymethyl)-3-(phenylmethyl)-2-pyrrolidinone | 0.170 g | C(C)N1C(C(CC1CO)CC1=CC=CC=C1)=O | C14H19NO2
